US05900486
To a solution of 3 g of 3,5-dimethyl-4-hydroxybenzyl bromide in CH3CN(30 mL) was added 1.2 g of (1R,2R)-4-[2-[2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-[1,2,4]triazol-1-yl-propyl]thiazol-4-yl]benzonitrile and stirring was continued for 2 h at room temperature. The precipitate was filtered and washed with ether to give 1.37 g(81 %y.) of 1-[(2R,3R)-3-[4-(4-cyanophenyl)thiazol-2-yl]-2-(2,4-difluorophenyl)-2-hydroxybutyl]-4-(3,5-dimethyl-4-hydroxy)benzyl-1H-[1,2,4]triazol-4-ium bromide(RoO9-3846) as a white solid. To a mixture of 30 g of 1-[(2R,3R)-3-[4-(4-cyanophenyl)thiazol-2-yl]-2-(2,4-difluoro-phenyl)-2-hydroxybutyl]-4-(3,5-dimethyl-4-hydroxybenzyl)-1H-[1,2,4]triazol-4-ium bromide, 10.9 g of Boc-(L)-proline and 2.8 g of N,N-dimethylaminopyridine in 1.2L of dichloromethane was added 17.6 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and the mixture was stirred for 1.5 h at room temperature and concentrated in vacuo. The residue was chromatographed on silica gel (Wakogel C-200, solvent: CH2Cl2 /MeOH=14/1) to give 30.9 g(79%y.) of 1-[(2R,3R)-3-[4-(4-cyanophenyl)thiazol-2-yl]-2-(2,4-difluorophenyl)-2-hydroxybutyl]-4-[(S)-3,5-dimethyl-4-(N-tert-butoxycarbonylpyrrolidine-2-carbonyloxy)benzyl]-1H-[1,2,4]triazol-4-ium bromide as a white solid. 30.9 g of 1-[(2R,3R)-3-[4-(4-cyanophenyl)thiazol-2-yl]-2-(2,4-difluorophenyl)-2-hydroxybutyl]-4-[(S)-3,5-dimethyl-4-(N-tert-butoxycarbonylpyrrolidine-2-carbonyloxy)benzyl]-1H-[1,2,4]triazol-4-ium bromide was stirred in 600 mL of 10% TFA-dichloromethane for 5 h at room temperature and the solvent was removed in vacuo. The residue was diluted with ether and the precipitate was washed with ether to give 1-[(2R,3R)-3-[4-(4-cyanophenyl)thiazol-2-yl]-2-(2,4-difluorophenyl)-2-hydroxybutyl]-4-[(S)-3,5-dimethyl-4-(pyrrolidine-2-carbonyloxy)benzyl]-1H-[1,2,4]triazol-4-ium bromide trifluoroacetic acid salt as a white solid.

reactant | 1-[(2R,3R)-3-[4-(4-cyanophenyl)thiazol-2-yl]-2-(2,4-difluoro-phenyl)-2-hydroxybutyl]-4-(3,5-dimethyl-4-hydroxybenzyl)-1H-[1,2,4]triazol-4-ium bromide | 30 g | [Br-].C(#N)C1=CC=C(C=C1)C=1N=C(SC1)[C@@H]([C@@](CN1N=C[N+](=C1)CC1=CC(=C(C(=C1)C)O)C)(O)C1=C(C=C(C=C1)F)F)C
reactant | Boc-(L)-proline | 10.9 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 17.6 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 1.2L | ClCCl | CH2Cl2
product | 1-[(2R,3R)-3-[4-(4-cyanophenyl)thiazol-2-yl]-2-(2,4-difluorophenyl)-2-hydroxybutyl]-4-[(S)-3,5-dimethyl-4-(N-tert-butoxycarbonylpyrrolidine-2-carbonyloxy)benzyl]-1H-[1,2,4]triazol-4-ium bromide | 30.9 g | [Br-].C(#N)C1=CC=C(C=C1)C=1N=C(SC1)[C@@H]([C@@](CN1N=C[N+](=C1)CC1=CC(=C(C(=C1)C)OC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C)C)(O)C1=C(C=C(C=C1)F)F)C | InChI=1S/C41H43F2N6O5S.BrH/c1-25-16-29(17-26(2)36(25)53-38(50)35-8-7-15-49(35)39(51)54-40(4,5)6)20-47-23-45-48(24-47)22-41(52,32-14-13-31(42)18-33(32)43)27(3)37-46-34(21-55-37)30-11-9-28(19-44)10-12-30;/h9-14,16-18,21,23-24,27,35,52H,7-8,15,20,22H2,1-6H3;1H/q+1;/p-1/t27-,35-,41+;/m0./s1
